US04382143
Preparation of ethyl 5-nitro-2-thiophenecarboxylate
To 160 ml. of acetic anhydride cooled to -5° in an ice-salt bath is added 34 ml. of 90% nitric acid dropwise so that the temperature does not rise above 0°. To this mixture is added 62.7 g. of ethyl 2-thiophenecarboxylate dropwise so that the temperature remains below -5°. Reaction is stirred for 1 hour and poured onto ice. The product is filtered, dried, and recrystallized from hexane.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 2-thiophenecarboxylate | S1C(=CC=C1)C(=O)OCC | C7H8O2S
product | ethyl 5-nitro-2-thiophenecarboxylate | [N+](=O)([O-])C1=CC=C(S1)C(=O)OCC | C7H7NO4S
